US05446189
A solution of 2.65 g (5.2 mmol) of 3-(methylthio)-5-(octadecyloxy)phenylcarbamic acid dimethylethyl ester and2.0 ml (26 mmol) of trifluoroacetic acid in 50 ml of methylene chloride waskept at room temperature for 24 hours. The mixture was concentrated at reduced pressure and the residue was treated with excess NaHCO3 solution. The product was extracted with methylene chloride and the dried extract was concentrated and recrystallized from methylene chloride-hexaneto give 1.85 g (87% yield), nap 75°-77° of 3-(methylthio)-5-(octadecyloxy)benzenamine. The nmr and mass spectra were consistent with the structure.

reactant | 3-(methylthio)-5-(octadecyloxy)phenylcarbamic acid dimethylethyl ester | 5.2 mmol, 2.65 g | CC(C)(C)OC(NC1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)SC)=O | C30H53NO3S
reactant | trifluoroacetic acid | 26 mmol, 0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(methylthio)-5-(octadecyloxy)benzenamine | 87% yield | CSC=1C=C(C=C(C1)OCCCCCCCCCCCCCCCCCC)N | C25H45NOS
